US05246949
(1) Synthesis of 3,4-di-O-isobutyryl -N-carbobenzoxydopamine
To 80 ml of a pyridine solution containing 10.7 g (37 mmol) of N-carbobenzoxydopamine obtained in Synthetic Example 1-(1) was added dropwise 9.9 g (93 mmol) of isobutyryl chloride at 5° to 10° C. After stirring at room temperature for 12 hours, the mixture was allowed to react at 35° to 40° C. for 3 hours. Then, the reaction mixture was poured into ice and a sodium carbonate solution and stirred at room temperature for 30 minutes. The mixture was extracted with diethyl ether and the resulting extract was dried over anhydrous magnesium sulfate. The solvent was distilled and the thus-obtained crude crystals were recrystallized from diisopropyl ether/petroleum ether (1:2 by volume) to obtain 11.9 g (yield: 74.7%) of the desired compound in the form of white cyrstals (m.p. 44°-46° C.).

reactant | N-carbobenzoxydopamine | 37 mmol, 10.7 g | C(=O)(OCC1=CC=CC=C1)NCCC1=CC(O)=C(O)C=C1 | C16H17NO4
reactant | isobutyryl chloride | 93 mmol, 9.9 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-di-O-isobutyryl -N-carbobenzoxydopamine | 11.9 g, yield: 74.7% | C(C(C)C)(=O)OC=1C=C(CCNC(=O)OCC2=CC=CC=C2)C=CC1OC(C(C)C)=O | C24H29NO6
